US08871782B2
Methanesulfonic anhydride (0.265 g, 1.52 mmol) was added in one portion to a solution of 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.46 mmol) in dichloromethane (10 mL), and the reaction was stirred for 30 minutes. A precipitate formed. Aqueous sodium hydroxide (25 mL of 10%) was added, and the mixture was stirred for 20 minutes. The aqueous layer was separated and extracted with dichloromethane. The combined organic fractions were washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting white solid was purified by column chromatography on silica gel (eluting with a dichloromethane:methanol ranging in ratios from 97:3 to 94:6) and then recrystallized from acetonitrile to yield 0.302 g of N-[2-(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]methanesulfonamide as white, granular crystals, mp 178-179.5° C.

reactant | Methanesulfonic anhydride | 1.52 mmol, 0.265 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.46 mmol, 0.500 g | NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC | C18H25N5O2
reactant | sodium hydroxide | 25 mL | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2-(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]methanesulfonamide | 0.302 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)OCCNS(=O)(=O)C | C19H27N5O4S
